US09376388B2
Isopropyl 5-fluoropicolinate
Anhydrous 2-propanol (0.361 g, 6 mmol) and anhydrous tri-ethylamine (0.405 g, 4 mmol) were added drop-wise at room temperature to the 5-fluoropicolinoyl fluoride provided above. The mixture was stirred at room temperature overnight, poured into a reparatory funnel with water and extracted with ethyl ether. The organic phase was then washed with water and dried over MgSO4. The solvent was removed with a rotary evaporator. The concentrated crude product was purified using column chromatography (silica gel) with ethyl acetate/hexanes mixture (1/10) as eluent to give 0.17 g (23% yield, 96% LC purity) of desired product as an off-white solid. GC/MS results were consistent with the chemical formula of isopropyl 5-fluoropicolinate: 70 eV EIMS (GC) m/z=142 (43%), 124 (100%), 97 (97%), 96 (93%), 43 (59%). 1H NMR (400 MHz, CDCl3) δ 8.60 (d, J=2.8 Hz, 1H), 8.18 (dd, J=8.8, 4.4 Hz, 1H), 7.52 (ddd, J=8.7, 7.9, 2.9 Hz, 1H), 5.34 (hept, J=6.3 Hz, 1H), 1.43 (d, J=6.3 Hz, 6H). 13C NMR (101 MHz, CDCl3) δ 163.63 (s), 162.32 (s), 159.71 (s), 144.84 (d, J=3.8 Hz), 138.46 (d, J=24.8 Hz), 126.78 (d, J=5.4 Hz), 123.31 (d, J=18.5 Hz), 69.71 (s), 21.81 (s). 19F NMR (376 MHz, CDCl3) δ −120.51.

reactant | 2-propanol | 6 mmol, 0.361 g | CC(C)O | C3H8O
reactant | tri-ethylamine | 4 mmol, 0.405 g | C(C)N(CC)CC | C6H15N
reactant | 5-fluoropicolinoyl fluoride | FC=1C=CC(=NC1)C(=O)F | C6H3F2NO
solvent | water | O | H2O
product | Isopropyl 5-fluoropicolinate | 23% yield | FC=1C=CC(=NC1)C(=O)OC(C)C | C9H10FNO2
